US08859769B2
Sodium-2-thiobarbiturate (500 g) was added to the mixture of water (1500 ml) and methanol (1000 ml) under stirring, followed by the addition of an n-propyl bromide (407.3 g) at 25-30° C. The resulting mass was stirred for 15 minutes at 25-30° C., followed by the addition of an aqueous sodium hydroxide solution (132.44 g in 1500 ml of water) over a period of 6 to 7 hours, while maintaining the temperature between 25-30° C. The resulting reaction mixture was stirred for 22 hours at 25-30° C. After completion of the reaction, water (1000 ml) was added to the reaction mass, followed by pH adjustment to less than 2.0 by the addition of concentrated hydrochloric acid (337 ml). The resulting slurry was stirred for 1 hour and the product was isolated by filtration and washed successively with water (3×1000 ml). The wet product was dried under reduced pressure at 50-55° C. to produce 426.9 g of 2-propylthio-pyrimidine-4,6-diol as a white powder (Yield: 76.2%; HPLC purity: 94.87 area-%).

reactant | Sodium 2-thiobarbiturate | 500 g | [Na].N1C(=S)NC(=O)CC1=O
reactant | n-propyl bromide | 407.3 g | CCCBr | C3H7Br
reactant | sodium hydroxide | 1500 ml, 132.44 g | [OH-].[Na+]
reactant | hydrochloric acid | 337 ml | Cl | ClH
solvent | water | 1000 ml | O | H2O
solvent | methanol | 1000 ml | CO | CH4O
solvent | water | 1500 ml | O | H2O
product | 2-propylthio-pyrimidine-4,6-diol | 426.9 g, Yield: 76.2% | C(CC)SC1=NC(=CC(=N1)O)O | C7H10N2O2S
